US05409936
1-t-Butoxycarbonyl-4-[2-(t-butoxycarbonylamino)ethyl]imidazole (78.1 g) is dissolved in acetonitrile (500 ml), and thereto is added methoxymethyl chloride (22.2 g). The mixture is stirred at room temperature overnight, and poured into aqueous 10% sodium carbonate solution, and extracted with ethyl acetate. The extract is washed, dried and evaporated to give 5-[2-(t-butoxycarbonylamino)ethyl]-1methoxymethylimidazole (54.4 g) as an oil.

reactant | 1-t-Butoxycarbonyl-4-[2-(t-butoxycarbonylamino)ethyl]imidazole | 78.1 g | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCNC(=O)OC(C)(C)C | C15H25N3O4
reactant | methoxymethyl chloride | 22.2 g | COCCl | C2H5ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 5-[2-(t-butoxycarbonylamino)ethyl]-1methoxymethylimidazole | 54.4 g | C(C)(C)(C)OC(=O)NCCC1=CN=CN1COC | C12H21N3O3
